US05536727
Preparation of ethyl 4-methyl-5α-4-azaandrostan-3-on-17β-yloxyacetate
To a solution of 17β-hydroxy4-methyl-5α-4-azaandrostan-3-one (2.37 g, 7.75 mmole) in methylene chloride (50 ml) was added ethyl diazoacetate (5.5 g, 48 mmole) and rhodium diacetate dimer (50 mg) intermittently in small portions during 60 hours resulting in ca. 35% conversion to product. The mixture was passed through a flash silica gel column eluted with 1.5% MeOH in CH2Cl2 to give the semi-purified product which was repurified via another flash silica gel column eluted with 60-95% EtOAc in hexane to give the title product, (Rf 0.3/EtOAc) mp. 39°-41° C.

reactant | 17β-hydroxy4-methyl-5α-4-azaandrostan-3-one | 7.75 mmole, 2.37 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3N(C(CC[C@]3(C)[C@H]1CC2)=O)C | C19H31NO2
reactant | ethyl diazoacetate | 48 mmole, 5.5 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | rhodium diacetate dimer | 50 mg | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
product | ethyl 4-methyl-5α-4-azaandrostan-3-on-17β-yloxyacetate | CN1[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)OCC(=O)OCC | C23H37NO4
